US08809538B2
(Z)-tert-Butyl 4-(3-(2-nitrophenyl)-3-oxoprop-1-enyl)piperidine-1-carboxylate
1-(2-Nitrophenyl)ethanone (1.04 g) and tert-butyl 4-formylpiperidine-1-carboxylate (1.47 g) were suspended in dry tetrahydrofuran (20 mL) and 20 drops of sodium ethoxide in ethanol (21% by weight) was added. The reaction mixture was stirred at room temperature for 18 hours and concentrated under reduced pressure to afford the crude material, which was purified by flash column chromatography (eluant: 15% ethyl acetate/hexane) to furnish the title compound (1.30 g) with the following physical properties.

reactant | 1-(2-Nitrophenyl)ethanone | 1.04 g | [N+](=O)([O-])C1=C(C=CC=C1)C(C)=O | C8H7NO3
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 1.47 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | sodium ethoxide | 20 drops | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (Z)-tert-Butyl 4-(3-(2-nitrophenyl)-3-oxoprop-1-enyl)piperidine-1-carboxylate | 1.30 g | [N+](=O)([O-])C1=C(C=CC=C1)C(\C=C/C1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H24N2O5
